US06166048
The manner in which certain aryl substituted olefinic amine compounds possessing a branched side chain, such as (4E)-N-methyl-5-(5-isopropoxy-3-pyridyl)-4-penten-2-amine, are provided can vary. By using one synthetic approach, the latter compound can be synthesized in a convergent manner, in which the side chain, N-methyl-N-(tert-butoxycarbonyl)-4-penten-2-amine is coupled with the 3-substituted 5-halo-substituted pyridine, 5-bromo-3-isopropoxypyridine, under Heck reaction conditions, followed by removal of the tert-butoxycarbonyl protecting group. Typically, the types of procedures set forth in W. C. Frank et al., J. Org. Chem. 43: 2947 (1978) and N. J. Malek et al., J. Org. Chem. 47: 5395 (1982) involving a palladium-catalyzed coupling of an olefin and an aromatic halide are used. The required N-methyl-N-(tert-butoxycarbonyl)-4-penten-2-amine can be synthesized as follows: (i) Commercially available 4-penten-2-ol (Aldrich Chemical Company, Lancaster Synthesis Inc.) can be treated with p-toluenesulfonyl chloride in pyridine to yield 4-penten-2-ol p-toluenesulfonate, previously described by T. Michel, et al., Liebigs Ann. 11: 1811 (1996); (ii) The resulting tosylate can be heated with 20 molar equivalents of methylamine as a 40% aqueous solution to yield N-methyl-4-penten-2-amine; and (iii) The resulting amine, such as previously mentioned by A. Viola et al., J. Chem. Soc., Chem. Commun. (21): 1429 (1984), can be allowed to react with 1.2 molar equivalents of di-tert-butyl dicarbonate in dry tetrahydrofuran to yield the side chain, N-methyl-N-(tert-butoxycarbonyl)-4-penten-2-amine. The halo-substituted pyridine, (e.g., 5-bromo-3-isopropoxypyridine) can be synthesized by two different routes. In one preparation, 3,5-dibromopyridine is heated at 140° C. for 14 hours with 2 molar equivalents of potassium isopropoxide in dry isopropanol in the presence of copper powder (5%, w/w of the 3,5-dibromopyridine) in a sealed glass tube to yield 5-bromo-3-isopropoxypyridine. A second preparation of 5-bromo-3-isopropoxypyridine from 5-bromonicotinic acid can be performed as follows: (i) 5-Bromonicotinic acid is converted to 5-bromonicotinamide by treatment with thionyl chloride, followed by reaction of the intermediate acid chloride with aqueous ammonia.; (ii) The resulting 5-bromonicotinamide, previously described by C. V. Greco et al., J. Heteocyclic Chem. 7(4): 761 (1970), is subjected to Hofmann degradation by treatment with sodium hydroxide and a 70% solution of calcium hypochlorite; and (iii) The resulting 3-amino-5-bromopyridine, previously described by C. V. Greco et al., J. Heteocyclic Chem. 7(4): 761 (1970), can be converted to 5-bromo-3-isopropoxypyridine by diazotization with isoamyl nitrite under acidic conditions, followed by treatment of the intermediate diazonium salt with isopropanol to yield 5-bromo-3-isopropoxypyridine. The palladium-catalyzed coupling of 5-bromo-3-isopropoxypyridine and N-methyl-N-(tert-butoxycarbonyl)-4-penten-2-amine is carried out in acetonitrile-triethylamine (2:1, v,v) using a catalyst consisting of 1 mole % palladium(II) acetate and 4 mole % tri-o-tolylphosphine. The reaction can be carried out by heating the components at 80° C. for 20 hours to yield (4E)-N-methyl-N-(tert-butoxycarbonyl)-5-(5-isopropoxy-3-pyridyl)-4-penten-2-amine. Removal of the tert-butoxycarbonyl protecting group can be accomplished by treatment with 30 molar equivalents of trifluoroacetic acid in anisole at 0° C. to afford (4E)-N-methyl-5-(5-isopropoxy-3-pyridyl)-4-penten-2-amine.

reactant | 5-bromo-3-isopropoxypyridine | BrC=1C=C(C=NC1)OC(C)C | C8H10BrNO
reactant | N-methyl-N-(tert-butoxycarbonyl)-4-penten-2-amine | CN(C(C)CC=C)C(=O)OC(C)(C)C | C11H21NO2
reactant | tri-o-tolylphosphine | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | acetonitrile triethylamine | C(C)#N.C(C)N(CC)CC
catalyst | palladium | [Pd] | Pd
catalyst | palladium(II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (4E)-N-methyl-N-(tert-butoxycarbonyl)-5-(5-isopropoxy-3-pyridyl)-4-penten-2-amine | CN(C(C)C\C=C\C=1C=NC=C(C1)OC(C)C)C(=O)OC(C)(C)C | C19H30N2O3
